** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/osc_tb_tran.sch
**.subckt osc_tb_tran
VDD VDD 0 3.3
I1 net2 0 20u
I3 net1 0 PULSE(0 1m 10n 1n 1n 10n 20n 1)
x1 VDD out1 net2 0 net1 out2 osc
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt
.lib cornerCAP.lib cap_typ

.include /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/IHP-Open-PDK/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice



* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param period=60n
.csparam period=period
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.probe alli
.control

save all
set appendwrite

tran 10n 0.5u
remzerovec

save all
set appendwrite

write osc_tb_tran.raw
set appendwrite

* Plotting
*plot g1 out1 g2 out2
*plot xm12:d#branch xm8:d#branch xc1#branch xc2#branch
plot out1 out2

*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  osc.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sch
.subckt osc VDD out1 ictrl VSS start out2
*.iopin VSS
*.iopin VDD
*.iopin out2
*.iopin out1
*.iopin start
*.iopin ictrl
XM3 out1 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM2 net2 net1 VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM4 start net1 VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM5 out2 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM6 ictrl ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM7 net1 net1 VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XC1 net2 out1 cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC2 out2 start cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM8 out1 start VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM1 start start VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
XM12 out2 net2 VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM11 net2 net2 VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
XM13 net3 ictrl VDD VDD sg13_hv_pmos w=3.0u l=2.0u ng=1 m=1 mm_ok=1
XM14 net3 net3 VSS VSS sg13_hv_nmos w=6u l=5u ng=1 m=1 mm_ok=1
XM15 net1 net3 VSS VSS sg13_hv_nmos w=2u l=5u ng=1 m=1 mm_ok=1
.ends

.end
